US06734180B1
4-(4-methoxycarbonylindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine
Using 2-(tert-butoxycarbonylamino)-4-methoxycarbonylindan (45 mg, 0.15 mmol) synthesized in the above Preparation Example 7, 4N hydrochloric acid-dioxane (0.7 ml) and acetic acid (2.1 ml), a similar procedure to Example 24 was carried out to obtain 2-amino-4-methoxycarbonylindan hydrochloride. Then, using the 2-amino-4-methoxycarbonylindan hydrochloride, 4-chloro-5-methylthieno[2,3-d]pyrimidine (28 mg, 0.15 mmol), triethylamine (63 μl, 0.45 mmol), and ethanol (1 ml), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (15 mg, 0.044 mmol) having the following physical properties:

reactant | 2-amino-4-methoxycarbonylindan hydrochloride | Cl.NC1CC2=CC=CC(=C2C1)C(=O)OC
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 0.15 mmol, 28 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | triethylamine | 0.45 mmol, 63 μl | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 4-(4-methoxycarbonylindan-2-yl)amino-5-methylthieno[2,3-d]pyrimidine | 0.044 mmol, 15 mg | COC(=O)C1=C2CC(CC2=CC=C1)NC=1C2=C(N=CN1)SC=C2C | C18H17N3O2S
